US06949542B2
4-(3-Pyrimidin-2-yl-phenyl)-8-trifluoromethyl-1,3-dihydro-benzo[b][1,4]diazepin-2-one
The title compound was prepared from (2-amino-5-methyl-4-trifluoromethyl-phenyl)-carbamic acid tert-butyl ester (Example J20) (145 mg, 0.5 mmol) and 3-oxo-3-(3-pyrimidin-2-yl-phenyl)-propionic acid tert-butyl ester (Example K44) (179 mg, 0.6 mmol) according to the general procedure M and subsequent treatment of the crude product according to the general procedure N. Obtained as a light yellow solid (80 mg).

reactant | (2-amino-5-methyl-4-trifluoromethyl-phenyl)-carbamic acid tert-butyl ester | 0.5 mmol, 145 mg | C(C)(C)(C)OC(NC1=C(C=C(C(=C1)C)C(F)(F)F)N)=O | C13H17F3N2O2
reactant | 3-oxo-3-(3-pyrimidin-2-yl-phenyl)-propionic acid tert-butyl ester | 0.6 mmol, 179 mg | C(C)(C)(C)OC(CC(C1=CC(=CC=C1)C1=NC=CC=N1)=O)=O | C17H18N2O3
product | 4-(3-Pyrimidin-2-yl-phenyl)-8-trifluoromethyl-1,3-dihydro-benzo[b][1,4]diazepin-2-one | N1=C(N=CC=C1)C=1C=C(C=CC1)C1=NC2=C(NC(C1)=O)C=C(C=C2)C(F)(F)F | C20H13F3N4O
